US06407087B1
Mycotrienin II (1.00 g, 1.56 mmol) was reduced with NaBH4 as described by the literature method to afford 1.04 g of a crude material. The crude material was immediately oxidized with FeCl3 as described by the literature method to afford 600 mg of Mycotrienol I as a yellow solid after chromatography (25:1 CH2Cl2/methanol, Rf=0.44) in 87% combined yield.

reactant | Mycotrienin II | 1.56 mmol, 1.00 g | C[C@@H]1[C@H](C/C=C/C=C/C=C/[C@@H](CC(=O)NC2=C(C(=CC(=C2)O)CC/C=C(/[C@@H]1O)\C)O)OC)OC(=O)[C@@H](C)NC(=O)C3CCCCC3 | C36H50N2O8
reactant | NaBH4 | [BH4-].[Na+]
solvent | CH2Cl2 methanol | C(Cl)Cl.CO
product | Mycotrienol I | 600 mg | C[C@H]1[C@@H](C/C=C/C=C/C=C/[C@@H](CC(=O)NC2=CC(=O)C=C(C2=O)CC/C=C(/[C@H]1O)\C)OC)O | C26H33NO6
